US07402595B2
2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 3-tert-butoxycarbonylaminopropyl ester
To a mixture of 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg), triphenylphosphine (140 mg), (3-hydroxypropyl)carbamic acid tert-butyl ester (92 mg) and THF (4.0 ml), 0° C. with stirring, diethyl azodicarboxylate (90 μl) was added, and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was purified by medium pressure preparative LC (hexane/ethyl acetate=5/1-3/2) to give the title compound (150 mg) as a colorless powder.

reactant | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | C(C1=CC=CC=C1)OC(=O)N(N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O)C | C25H19ClN2O5
reactant | triphenylphosphine | 140 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3-hydroxypropyl)carbamic acid tert-butyl ester | 92 mg | C(C)(C)(C)OC(NCCCO)=O | C8H17NO3
reactant | diethyl azodicarboxylate | 90 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
product | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 3-tert-butoxycarbonylaminopropyl ester | 150 mg | C(C)(C)(C)OC(=O)NCCCOC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N(C)C(=O)OCC1=CC=CC=C1 | C33H34ClN3O7
